US04227000
Using a procedure similar to that of Example 16, 2-nitroamino-5-(3-pyridylmethyl)-4-pyrimidone was reacted with 1.1 molar equivalents of 4-(3-amino-2-pyridyl)butylamine, to give 2-[4-(3-amino-2-pyridyl)butylamino]-5-(3-pyridylmethyl)-4-pyrimidone, m.p. 130°-1.5°.

reactant | 2-nitroamino-5-(3-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C10H9N5O3
reactant | 4-(3-amino-2-pyridyl)butylamine | NC=1C(=NC=CC1)CCCCN | C9H15N3
product | 2-[4-(3-amino-2-pyridyl)butylamino]-5-(3-pyridylmethyl)-4-pyrimidone | NC=1C(=NC=CC1)CCCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C19H22N6O
